US06759417B2
4-Amino-5-(1H-benzimidazol-2-yl)-1-methyl-1,7-dihydro-6H-pyrazolo[3,4-b]pyridin-6-one
5-Amino-1-methyl-1H-pyrazole-4-carbonitrile (1.0 eq) and ethyl 1H-benzimidazol-2-ylacetate (1.0 eq) were dissolved in THF and dried over sieves. LiHMDS (3 eq) was added dropwise and the mixture stirred for 18 hours. The mixture was filtered and diluted with EtOAc, then washed with an aqueous saturated NH4Cl solution. The aqueous layer was washed with EtOAc (3×), and the organic layers combined, dried over MgSO4, and concentrated yielding pure product. LC/MS m/z 281.0 (MH+), Rt 1.41 minutes.

reactant | 5-Amino-1-methyl-1H-pyrazole-4-carbonitrile | 1.0 eq | NC1=C(C=NN1C)C#N | C5H6N4
reactant | ethyl 1H-benzimidazol-2-ylacetate | 1.0 eq | N1C(=NC2=C1C=CC=C2)CC(=O)OCC | C11H12N2O2
reactant | LiHMDS | 3 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-5-(1H-benzimidazol-2-yl)-1-methyl-1,7-dihydro-6H-pyrazolo[3,4-b]pyridin-6-one | NC=1C2=C(NC(C1C1=NC3=C(N1)C=CC=C3)=O)N(N=C2)C | C14H12N6O
